US07598391B2
1,1-Dicyclohexyl-3-{5-[2-(1H-tetrazol-5-yl)-ethylsulfanyl]-thiazol-2-yl}-urea
Prepared as described in general procedure (H) using 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 5-(2-chloroethyl)-1H-tetrazole.

reactant | 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)C1CCCCC1 | C17H24N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 5-(2-chloroethyl)-1H-tetrazole | ClCCC1=NN=NN1 | C3H5ClN4
product | 1,1-Dicyclohexyl-3-{5-[2-(1H-tetrazol-5-yl)-ethylsulfanyl]-thiazol-2-yl}-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SCCC1=NN=NN1)C1CCCCC1 | C19H29N7OS2
